US04286093
A solution of 4-amino-6-(cyclohexylamino)-5-(formylamino)-2-(methylthio)pyrimidine (25.0 g., 0.088 mole) or a mole equivalent of the formate salt thereof in 125 ml. ethanol and 500 ml. 1 N sodium hydroxide is refluxed for a 4 hr. period, cooled in an ice-bath, and then filtered affording 14.1 g. (61%) of yellow material. Crystallization from ethanol gives 6-amino-9-cyclohexyl-2-(methylthio)purine as off-white crystals, m.p. 222°-224°.

reactant | 4-amino-6-(cyclohexylamino)-5-(formylamino)-2-(methylthio)pyrimidine | 0.088 mole, 25.0 g | NC1=NC(=NC(=C1NC=O)NC1CCCCC1)SC | C12H19N5OS
reactant | formate | C(=O)[O-]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-9-cyclohexyl-2-(methylthio)purine | NC1=C2N=CN(C2=NC(=N1)SC)C1CCCCC1 | C12H17N5S
